US07511033B2
3′-[8-(Isobutyl-methyl-amino)-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-biphenyl-3-sulfonic acid amide
) The title compound was prepared from the above described 3′-[8-(isobutyl-methyl-amino)-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-biphenyl-3-sulfonic acid tert-butylamide (250 mg) and TFA (5 mL) according to the general procedure I step 2. Obtained as a light yellow solid (69 mg, 25%). MS (ISN) 543.5 [(M−H)−]; mp 232° C. (dec).

reactant | 3′-[8-(isobutyl-methyl-amino)-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-biphenyl-3-sulfonic acid tert-butylamide | 250 mg | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C=1CC(NC2=C(N1)C=C(C(=C2)C(F)(F)F)N(C)CC(C)C)=O | C31H35F3N4O3S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3′-[8-(Isobutyl-methyl-amino)-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-biphenyl-3-sulfonic acid amide | C(C(C)C)N(C=1C(=CC2=C(N=C(CC(N2)=O)C=2C=C(C=CC2)C2=CC(=CC=C2)S(=O)(=O)N)C1)C(F)(F)F)C | C27H27F3N4O3S
